US07868022B2
Step E: 5-Cyano-6-(4-ethoxy-2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid
To a solution of 5-cyano-5-(diethoxy-phosphoryl)-4-(tetrahydro-pyran-4-yl)-pentanoic acid (174 mg, 0.5 mmol) prepared as described in Example 3 above, in THF (10 mL) at −78° C. was added lithium bis(trimethylsilyl)amide (1.2 mL, 1.2 mmol). The resulting mixture was stirred for 30 min at −78° C. and then warmed to room temperature. 4-Ethoxy-2-nitro-5-phenoxy-benzaldehyde (137 mg, 0.5 mmol) was added and the resulting mixture stirred for 4 h at room temperature. Water was added, and the resulting solution was extracted with methylene chloride (3×), washed with brine, dried over Na2SO4, filtered and concentrated. The resulting crude mixture was purified by chromatography (silica gel, 0-2% methanol in methylene chloride) to yield a yellow foam.

reactant | 5-cyano-5-(diethoxy-phosphoryl)-4-(tetrahydro-pyran-4-yl)-pentanoic acid | 0.5 mmol, 174 mg | C(#N)C(C(CCC(=O)O)C1CCOCC1)P(=O)(OCC)OCC | C15H26NO6P
reactant | lithium bis(trimethylsilyl)amide | 1.2 mmol, 1.2 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-Ethoxy-2-nitro-5-phenoxy-benzaldehyde | 0.5 mmol, 137 mg | C(C)OC1=CC(=C(C=O)C=C1OC1=CC=CC=C1)[N+](=O)[O-] | C15H13NO5
reactant | Water | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 5-Cyano-6-(4-ethoxy-2-nitro-5-phenoxy-phenyl)-4-(tetrahydro-pyran-4-yl)-hex-5-enoic acid | C(#N)C(C(CCC(=O)O)C1CCOCC1)=CC1=C(C=C(C(=C1)OC1=CC=CC=C1)OCC)[N+](=O)[O-] | C26H28N2O7
